2173-03-04 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- patient slept comfortably throughout night, was able to decrease
   FIO2 from 100% to 70% on shovel mask and tolerated well.
   -- patient somewhat solmnalent, but easily arousable and ABG WNL
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-3-1**] 07:40 AM
   Caspofungin - [**2173-3-1**] 08:29 PM
   Aztreonam - [**2173-3-2**] 06:00 AM
   Acyclovir - [**2173-3-3**] 11:00 PM
   Metronidazole - [**2173-3-4**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain, Palpitations, Edema, Tachycardia, Orthopnea
   Respiratory: Dyspnea, Tachypnea
   Neurologic: Numbness / tingling
   Flowsheet Data as of  [**2173-3-4**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 98 (93 - 116) bpm
   BP: 107/51(59) {99/43(59) - 134/78(88)} mmHg
   RR: 19 (18 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.3 kg (admission): 72.2 kg
             Total In:
                                                                    155 mL
                                                                    287 mL
   PO:
             TF:
   IVF:
                                                                    155 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    195 mL
   Urine:
                                                                    380 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -225 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: 7.51/36/182/28/6
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: No acute distress, Diaphoretic, Weak
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, UE/LE
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   419 K/uL
   8.7 g/dL
   69 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   38 mg/dL
   105 mEq/L
   144 mEq/L
   25.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2173-2-26**]  04:38 PM
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
                             [**2173-2-28**]  04:37 AM
                             [**2173-2-28**]  04:00 PM
                             [**2173-3-1**]  05:30 AM
                             [**2173-3-2**]  05:40 AM
                             [**2173-3-3**]  10:29 PM
                             [**2173-3-4**]  12:58 AM
   WBC
   0.2
   0.5
   1.0
   2.1
   3.5
   7.5
   Hct
   28.0
   26.6
   26.4
   26.8
   25.9
   25.0
   Plt
   97
   89
   111
   191
   268
   419
   Cr
   0.6
   0.5
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   24
   24
   30
   Glucose
   118
   77
   96
   130
   158
   199
   69
   Other labs: PT / PTT / INR:14.9/29.7/1.3, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/18, Alk Phos / T Bili:192/0.8,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:0.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:1775 ng/mL, Fibrinogen:590 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.8 g/dL, LDH:344 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.8 mg/dL
   Fluid analysis / Other labs: pH 7.51
   pCO2 36
   pO2 182
   HCO3 30
   Assessment and Plan
   60 y/o F w/ APML w/ recent ICU admission for hemopytis and respiratory
   distress, s/p extubation, now transferred back to [**Hospital Unit Name 44**] for new hypoxia
   and question of hemopytsis.
    #) Hypoxia:  Patient with worsening respiratory distress following
   observed aspiration during bed-side speech and swallow study.   Patient
   had grossly failed swallow evaluation, and given that had developed
   acute hypoxia following an observed episode of aspiration, respiratory
   worsening may be due to a aspiration pneumonia/pneumonitis.  Patient
   with low grade temperatures and WBC trending up.  She has had some
   difficulty with fluid overload, but chest XR not overwhelming for
   pulmonary edema.  Patient with noted difficulty managing secretions,
   and CXR consistent with atelectasis, possibly for mucous plugging.
   Patient successfully had O2 titrated down from 100% to 50% overnight,
   and is currently comfortably.  ABG showed adwqute
   oxygenation/ventilation.  CXR slightly improved
   --             continue to try to wean O2.  If continues to worsen,
   switch to NRB, and BIPAP in necessary.
   --             given high suspicion of aspiration in this
   immunocompromised patient low reserve, will treat empirically w/
   antibiotics.
                  Continue Levo/flagyl
   --             Repeat CXR in am
   --             Follow am WBC
   --             avoiding diuresis given hypotension
   --             Aggressive chest PT and pulmonary toilet to try to free
   mucous plug.  If necessary, may need to bronch in order to clear.
   --             Albuterol/atrovent nebs PRN
   #) Hemoptysis:  Patient with prior Icu admission for hemoptysis, but at
   that time had much more pronounced degree of bleeding.  Currently only
   two small amounts of blood observed with suctioning.  HCT slight move
   downward.  Patient shows no evidence of respiratory compromise from
   bleeding.  Given history of friable oral mucosa w/ recent yanquer
   suncitoning, bleeding may be secondary to trauma, although no
   ulceration noted on exam.  As patient has recently been off acyclovir
   to treat HSV, but had completed therapeutic course, may be due to a HSV
   mucositis in OP, airways, or esophogitis.    Patient does not complain
   of pain with swallowing.
   - Continue to follow hct and observe patient.
   # Hypertension:  Patients BP finally gotten under control after
   difficulty time managing refractory BP with clonidine patch,
   nitropaste, IV hydralazine, and switching labatolol to PO coreg.
   Patient no longer able to tolerate Pos.  Patients PB is currently
   100s.  Some conerns of neuron event, making hypotension more concerning
   in this chronically hypertensive patient.
   - will hold all hypertension meds.
   #Swallowing Deficits:  Patient grossly failed bed side swallow
   evaluation w/ marked defects on exam consistent with central deficit.
   Felt to not be consistent with post-intubation deficits.  Patient with
   APML currently undergoing active treatment with history of recent DIC
   and AF has multiple risk factors for thromboempolic as well as
   hemorragic stroke.
   --             maitnain patinet NPO
   --             CT scan for head to evaluate for stroke, may need to get
   MRI once current issues stabilizied and possible neuro c/s.
   --             [**Month (only) 60**] need to consider PEG, continue TPN, and discuss w/
   BMT
   #) Acute systolic heart failure: echo on adm to ICU showed an EF drop
   from 70% to 10%, believed to be [**1-16**] chemo toxicity.  F/u TTE showed
   improved EF of 50%.  Per cards, started on coreg and valsartan.
   - currently NPO given aspiration risk, holding coreg and valsartan
   - continue to diurese, will attempt to diurese off another liter.
   - once can tolerate [**Last Name (LF) **], [**First Name3 (LF) 178**] restart coreg/valsartan per cardiology
   #) APML: S/p induction with 7+3 and Atra, no longer neutropenic [**2-28**].
   - f/u BMT recs, holding on chemo/Atra for now
   - has not been getting PCP [**Name9 (PRE) **] as NPO, ok BMT
   ICU Care
   Nutrition:
   Comments: NPO, failed swallow study.  TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-3-3**] 07:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2173-03-04 09:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx unchanged. Patient is familiar to our team. Readmitted last night
   for increased dyspnea, tachypnea, and desaturation. Yesterday, pt had
   swallow evaluation and was felt to have aspirated all liquids, meds,
   etc.  Noticed to have blood coming from the mouth and from suction
   aspirate.
   Pt had  a PT eval - question of weakness L>R.
   24 Hour Events:
   Cipro, flagyl started yesterday
   Coreg started, labetolol d/c'd.
   ROS: c/o shortness of breath, fatigue, weakness.
   MEDS reviewed
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-3-1**] 08:29 PM
   Aztreonam - [**2173-3-2**] 06:00 AM
   Metronidazole - [**2173-3-4**] 12:00 AM
   Acyclovir - [**2173-3-4**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-4**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 85 (85 - 116) bpm
   BP: 115/52(66) {99/43(59) - 134/78(88)} mmHg
   RR: 20 (18 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.3 kg (admission): 72.2 kg
             Total In:
                                                                    155 mL
                                                                    409 mL
   PO:
             TF:
   IVF:
                                                                    155 mL
                                                                    409 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    240 mL
   Urine:
                                                                    380 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -225 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   FiO2: 10 liter shovel mask
   SpO2: 95%
   ABG: 7.51/36/182/26/6
   PaO2 / FiO2: 364
   Physical Examination
   General Appearance: Well nourished, somewhat diaphoretic, lethargic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: ulcerations of mouth appear healed
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, LUE>RUE> LE edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   382 K/uL
   84 mg/dL
   0.7 mg/dL
   26 mEq/L
   5.2 mEq/L
   40 mg/dL
   106 mEq/L
   142 mEq/L
   23.1 %
   8.4 K/uL
        [image002.jpg]
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
                             [**2173-2-28**]  04:37 AM
                             [**2173-2-28**]  04:00 PM
                             [**2173-3-1**]  05:30 AM
                             [**2173-3-2**]  05:40 AM
                             [**2173-3-3**]  10:29 PM
                             [**2173-3-4**]  12:58 AM
                             [**2173-3-4**]  05:30 AM
   WBC
   0.5
   1.0
   2.1
   3.5
   7.5
   8.4
   Hct
   26.6
   26.4
   26.8
   25.9
   25.0
   23.1
   Plt
   89
   111
   191
   268
   419
   382
   Cr
   0.5
   0.7
   0.6
   0.6
   0.6
   0.6
   0.7
   TCO2
   24
   24
   30
   Glucose
   77
   96
   130
   158
   199
   69
   84
   Other labs: PT / PTT / INR:16.3/29.7/1.5, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/18, Alk Phos / T Bili:192/0.8,
   Differential-Neuts:78.0 %, Band:8.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0
   %, D-dimer:1775 ng/mL, Fibrinogen:754 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.8 g/dL, LDH:344 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.8
   mg/dL
   Imaging: CXR reviewed
   Assessment and Plan
   60 yo woman with APML, s/p ATRA, course c/b febrile neutropenia,
   hypoxemia, pulmonary edema.
   1. Acute respitory failure: increased O2 requirements with RLL
   atelectasis (from mucus plugging) vs less likely lobar infiltrate.
   Taper down O2 as tolerated. Keep NPO. Keep fluid balance even.
   Hemoptysis is more likely related to suction trauma but can't rule out
   endobronchial lesion.
   2. ID / low grade fever: all cultures negative, low grade fever, no
   longer neutropenic. Agree with short course of levoflox/flagyl covering
   aspiration.
   Would consider atovaquone for PCP [**Name Initial (PRE) 1374**].
   Off the empiric caspofungin, vanco, aztreonam. On proph dose of
   acyclovir (for herpetic mucocytis).
   3. HTN: BP overnight went down to 100. All meds including clonidine
   patch on hold. Concern for TIA/CVA could be related to acute decrease
   in BP.
   4. HSV Mucositis: back on proph acyclovir. Limit patient's
   self-suctioning. NPO for now.
   5. APML: Followed by BMT team. Signs of reconstitution.
   ICU Care
   Nutrition: restart TPN, consider dobhoff vs PEG
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-3-3**] 07:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Code status: Full code
   Disposition :ICU, Total time spent: 35 minutes critical care time

2173-03-05 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - chest PT, with good sputum production
   - pm HCT 10 > transfused 1 unit pRBCs
   - Head CT negative for acute bleed
   - neuro exam shows L>R sided weakness
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2173-3-4**] 08:33 AM
   Metronidazole - [**2173-3-5**] 12:04 AM
   Acyclovir - [**2173-3-5**] 06:36 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2173-3-5**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 94 (71 - 109) bpm
   BP: 152/71(91) {99/52(60) - 159/87(97)} mmHg
   RR: 19 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.3 kg (admission): 72.2 kg
             Total In:
                                                                  2,120 mL
                                                                    769 mL
   PO:
             TF:
   IVF:
                                                                  1,386 mL
                                                                    309 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,710 mL
                                                                    500 mL
   Urine:
                                                                  1,710 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    410 mL
                                                                    269 mL
   Respiratory support
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Labs / Radiology
   443 K/uL
   9.3 g/dL
   100 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.5 mEq/L
   37 mg/dL
   110 mEq/L
   143 mEq/L
   26.4 %
   11.8 K/uL
        [image002.jpg]
                             [**2173-2-28**]  04:37 AM
                             [**2173-2-28**]  04:00 PM
                             [**2173-3-1**]  05:30 AM
                             [**2173-3-2**]  05:40 AM
                             [**2173-3-3**]  10:29 PM
                             [**2173-3-4**]  12:58 AM
                             [**2173-3-4**]  05:30 AM
                             [**2173-3-4**]  05:41 PM
                             [**2173-3-4**]  06:00 PM
                             [**2173-3-5**]  02:23 AM
   WBC
   1.0
   2.1
   3.5
   7.5
   8.4
   8.9
   11.8
   Hct
   26.4
   26.8
   25.9
   25.0
   23.1
   20.2
   26.4
   Plt
   111
   191
   268
   [**Telephone/Fax (3) 1735**]
   443
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.7
   0.8
   0.8
   TCO2
   30
   Glucose
   96
   130
   158
   199
   69
   84
   69
   75
   100
   Other labs: PT / PTT / INR:16.6/30.6/1.5, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:31/41, Alk Phos / T Bili:333/0.8,
   Differential-Neuts:71.0 %, Band:6.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1775 ng/mL, Fibrinogen:693 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.5 g/dL, LDH:652 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.7
   mg/dL
   Imaging: [**3-4**] Non con Head CT:
   IMPRESSION:
   1.  No evidence for mass effect or hemorrhage.  MR is more sensitive
   for the
   evaluation of acute brain ischemia.
   2.  Opacification of the mastoid air cells, right greater than left,
   with
   fluid within the right middle ear.
   Assessment and Plan
   60 y/o F w/ APML w/ recent ICU admission for hemopytis and respiratory
   distress, s/p extubation, now transferred back to [**Hospital Unit Name 44**] for new hypoxia
   and question of hemopytsis.
    #) Hypoxia:  Patient with worsening respiratory distress following
   observed aspiration during bed-side speech and swallow study.   Patient
   had grossly failed swallow evaluation, and given that had developed
   acute hypoxia following an observed episode of aspiration, respiratory
   worsening may be due to a aspiration pneumonia/pneumonitis.  Afebrile
   o/n & WBC trending up, inc from 8.9 to 11.8 this am.  Pt getting
   aggressive chest PT for difficulty managing secretions, and CXR
   consistent with atelectasis, likely [**1-16**] mucous plugging.  ABG showed
   adwqute oxygenation/ventilation.
   -- given aspiration. continue empiric Rx with Levo/Flagyl
   -- avoiding diuresis given hypotension
   -- aggressive chest PT and pulmonary toilet to try to free mucous plug
   -- albuterol/atrovent nebs PRN
   -- f/u am CXR
   #) Hemoptysis:  Patient with prior Icu admission for hemoptysis, but at
   that time had much more pronounced degree of bleeding.  Currently only
   two small amounts of blood observed with suctioning.  HCT slight move
   downward.  Patient shows no evidence of respiratory compromise from
   bleeding.  Given history of friable oral mucosa w/ recent yanquer
   suncitoning, bleeding may be secondary to trauma, although no
   ulceration noted on exam.  As patient has recently been off acyclovir
   to treat HSV, but had completed therapeutic course, may be due to a HSV
   mucositis in OP, airways, or esophogitis.   HCt trended down to 20
   overnight & pt was transfused with 1upRBCs, inc to 26 this am.
   - continue to monitor
   #Swallowing Deficits: failed swallow evaluation w/ marked deficits &
   witnessed aspiration possibly c/w central insult, felt not consistent
   with post-intubation deficits. Non con head CT revealed no acute
   intracran bleed,  noted opacification of R sided mastoid air cells.  Pt
   with recently diagnosed APML who p/w e/o DIC & had intermittent AF,
   ongoing concern for thromboembolic stroke.
   -- maintain strict NPO, on TPN for now
   -- will need MRI once resp issues stabilized & pt able to lie flat
   -- need to consider PEG, continue TPN, and discuss w/ BMT
   # Hypertension: pt with difficult to manage refractory BP on clonidine
   patch, nitropaste, IV hydralazine, and switched from IV labatolol to PO
   coreg. Now s/p failed swallow eval, pt no longer able to tolerate po.
   Transferred to [**Hospital Unit Name 44**] with low sBP concerning for infection in this
   chronically hypertensive patient.   BP came back up overnight, sbps
   ranging from 100-150s
   - will add back BP meds as needed today
   #) Acute systolic heart failure: echo on adm to ICU showed an EF drop
   from 70% to 10%, believed to be [**1-16**] chemo toxicity.  F/u TTE showed
   improved EF of 50%.  Per cards, started on coreg and valsartan.
   - currently NPO given aspiration risk, holding coreg and valsartan
   - continue to diurese, will attempt to diurese off another liter.
   - once can tolerate [**Last Name (LF) **], [**First Name3 (LF) 178**] restart coreg/valsartan per cardiology
   #) APML: S/p induction with 7+3 and Atra, no longer neutropenic [**2-28**].
   - f/u BMT recs, holding on chemo/Atra for now
   - has not been getting PCP [**Name9 (PRE) **] as NPO, ok BMT
   ICU Care
   Nutrition: TPN w/ Lipids - [**2173-3-4**] 06:15 PM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-3-3**] 07:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Code status: Full code
   Disposition:ICU

2173-03-05 11:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No new complaints. Feels subjectively better today.
   Transfused 1 unit PRBC for Hct 20
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2173-3-5**] 06:36 AM
   Metronidazole - [**2173-3-5**] 08:00 AM
   Levofloxacin - [**2173-3-5**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-5**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 98 (71 - 104) bpm
   BP: 156/74(96) {99/52(72) - 159/87(97)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.3 kg (admission): 72.2 kg
             Total In:
                                                                  2,120 mL
                                                                  1,232 mL
   PO:
             TF:
   IVF:
                                                                  1,386 mL
                                                                    509 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,710 mL
                                                                    760 mL
   Urine:
                                                                  1,710 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    410 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), decreased bs right base,
   few left-sided inspiratory wheezes
   Extremities: Right: 1+, Left: 1+
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   443 K/uL
   100 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.5 mEq/L
   37 mg/dL
   110 mEq/L
   143 mEq/L
   26.4 %
   11.8 K/uL
        [image002.jpg]
                             [**2173-2-28**]  04:37 AM
                             [**2173-2-28**]  04:00 PM
                             [**2173-3-1**]  05:30 AM
                             [**2173-3-2**]  05:40 AM
                             [**2173-3-3**]  10:29 PM
                             [**2173-3-4**]  12:58 AM
                             [**2173-3-4**]  05:30 AM
                             [**2173-3-4**]  05:41 PM
                             [**2173-3-4**]  06:00 PM
                             [**2173-3-5**]  02:23 AM
   WBC
   1.0
   2.1
   3.5
   7.5
   8.4
   8.9
   11.8
   Hct
   26.4
   26.8
   25.9
   25.0
   23.1
   20.2
   26.4
   Plt
   111
   191
   268
   [**Telephone/Fax (3) 1735**]
   443
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.7
   0.8
   0.8
   TCO2
   30
   Glucose
   96
   130
   158
   199
   69
   84
   69
   75
   100
   Other labs: PT / PTT / INR:16.6/30.6/1.5, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:31/41, Alk Phos / T Bili:333/0.8,
   Differential-Neuts:71.0 %, Band:6.0 %, Lymph:1.0 %, Mono:3.0 %, Eos:0.0
   %, D-dimer:1775 ng/mL, Fibrinogen:693 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.5 g/dL, LDH:652 IU/L, Ca++:9.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   60 yo woman with APML, s/p ATRA, course c/b febrile neutropenia,
   hypoxemia, pulmonary edema.
   1. Acute respitory failure: sigificantly more stable. Needs ongoing
   chest PT and pulmonary toilet. RLL appears atelectatic. I am not
   anxious to do bronchoscopy but would consider if RLL doesn't expand
   despite aggressive CPT. Taper down O2 as tolerated. Keep NPO.
   Hemoptysis was more likely related to suction trauma.
   2. ID: all cultures negative, afebrile, no longer neutropenic.
   Agree with short course of levoflox/flagyl covering aspiration x [**4-21**] d
   course.
   Would consider atovaquone for PCP [**Name Initial (PRE) 1374**]. Off the empiric
   caspofungin, vanco, aztreonam. On proph dose of acyclovir (for herpetic
   mucocytis).
   3. HTN: BP overnight went down to 100. All meds including clonidine
   patch on hold. Concern for TIA/CVA could be related to acute decrease
   in BP. Would aim for SBP of 130-150 for now.
   4. HSV Mucositis: back on proph acyclovir. Limit patient's
   self-suctioning. NPO for now.
   5. APML: Followed by BMT team. Signs of reconstitution.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2173-3-4**] 06:15 PM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-3-3**] 07:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes